US07635701B2
To a solution of benzyl 2-chloro-4-trifluoromethylpyrimidine-5-carboxylate (0.50 g, ex Maybridge) in 1,4-dioxan (5 ml) was added 3-chloroaniline (0.85 ml) and the solution stirred at room temperature for 15 h. 1,4-Dioxan was removed under reduced pressure and ethyl acetate (15 ml) added. The solution was washed sequentially with 2N hydrochloric acid (10 ml) and water (3×10 ml), dried (MgSO4), evaporated and triturated with hexane to afford benzyl 2-(3-chlorophenylamino)-4-trifluoromethylpyrimidine-5-carboxylate (524 mg).

reactant | benzyl 2-chloro-4-trifluoromethylpyrimidine-5-carboxylate | 0.50 g | ClC1=NC=C(C(=N1)C(F)(F)F)C(=O)OCC1=CC=CC=C1 | C13H8ClF3N2O2
reactant | 3-chloroaniline | 0.85 ml | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | 1,4-dioxan | 5 ml | O1CCOCC1 | C4H8O2
product | benzyl 2-(3-chlorophenylamino)-4-trifluoromethylpyrimidine-5-carboxylate | 524 mg | ClC=1C=C(C=CC1)NC1=NC=C(C(=N1)C(F)(F)F)C(=O)OCC1=CC=CC=C1 | C19H13ClF3N3O2
